US06624158B2
N-({6-[(2,2-Diphenylethyl)amino]-9-[(2R,3R,4S,5R)-5-(2-ethyl-2H-tetrazol-5-yl)-3,4-dihydroxytetrahydro-2-furanyl]-9H-purin-2-yl}methyl)-2-methyl-1-propanesulphonamide
A solution of (2R,3R,4R,5R)-4-(acetyloxy)-2-(6-[(2,2-diphenylethyl)amino]-2-{[(isobutylsulphonyl)amino]methyl}-9H-purin-9-yl)-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate (Preparation 26) (230 mg, 0.31 mmol) and sodium carbonate (130 mg, 1.23 mmol) in methanol (15 ml) and water (1.5 ml) was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residue was partioned between ethyl acetate (50 ml) and water (10 ml). The organic layer was washed with brine (10 ml), dried (anhydrous sodium sulphate) and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol (97:3 by volume). Product containing fractions were evaporated to afford the title compound as a white powder (190 mg).

reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-(6-[(2,2-diphenylethyl)amino]-2-{[(isobutylsulphonyl)amino]methyl}-9H-purin-9-yl)-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-3-furanyl acetate | 0.31 mmol, 230 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C=1N=NN(N1)CC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CNS(=O)(=O)CC(C)C | C35H42N10O7S
reactant | sodium carbonate | 1.23 mmol, 130 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 1.5 ml | O | H2O
product | N-({6-[(2,2-Diphenylethyl)amino]-9-[(2R,3R,4S,5R)-5-(2-ethyl-2H-tetrazol-5-yl)-3,4-dihydroxytetrahydro-2-furanyl]-9H-purin-2-yl}methyl)-2-methyl-1-propanesulphonamide | 190 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)CNS(=O)(=O)CC(C)C)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C=1N=NN(N1)CC)C1=CC=CC=C1 | C31H38N10O5S
